US06582351B1
To a solution of 3-amino-4-(trans-4-hydroxycyclohexylamino)benzotrifluoride (657 mg) in acetonitrile (7 mL) was added 1,1′-carbonyldiimidazole (1.17 g), and the mixture was stirred at 60° C. under nitrogen atmosphere for 3 hours. After adding 1N-sodium hydroxide solution (5 mL), the mixture was stirred at 60° C. for an hour. The mixture was neutralized with concentrated hydrochloric acid at 0° C. The resulting precipitate was collected by filtration and washed successively with water and diethyl ether to give 1-(trans-4-hydroxycyclohexyl)-5-trifluoromethyl-2,3-dihydro-1H-benzimidazol-2-one (549.5 mg) as a colorless solid.

reactant | 3-amino-4-(trans-4-hydroxycyclohexylamino)benzotrifluoride | 657 mg | NC=1C=C(C=CC1N[C@@H]1CC[C@H](CC1)O)C(F)(F)F | C13H17F3N2O
reactant | 1,1′-carbonyldiimidazole | 1.17 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 1-(trans-4-hydroxycyclohexyl)-5-trifluoromethyl-2,3-dihydro-1H-benzimidazol-2-one | 549.5 mg | O[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC(=C2)C(F)(F)F)=O | C14H15F3N2O2
